US07067517B2
Methyl-phenyl-carbamic acid 5-chloro-pyridin-2-yl ester
A solution of 5-chloro-2-pyridol (0.39 g, 3.00 mmol), 1-methyl-3-(methyl-phenyl-carbamoyl)-3H-imidazol-1-ium iodide (1.03 g, 3.00 mmol) and triethylamine (0.42 ml, 3.00 mmol) in acetonitrile (15 ml) was stirred at room temperature for 3 days. The solvent was evaporated in vacuo and the residue was purified by flash column chromatography (SiO2, ethyl acetate:heptane (30:70)) yielding the title compound (0.78 g, 99% yield) as a white solid.

reactant | 5-chloro-2-pyridol | 3.00 mmol, 0.39 g | ClC=1C=CC(=NC1)O | C5H4ClNO
reactant | 1-methyl-3-(methyl-phenyl-carbamoyl)-3H-imidazol-1-ium iodide | 3.00 mmol, 1.03 g | [I-].C[N+]1=CN(C=C1)C(N(C1=CC=CC=C1)C)=O
reactant | triethylamine | 3.00 mmol, 0.42 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | Methyl-phenyl-carbamic acid 5-chloro-pyridin-2-yl ester | 0.78 g, 99% yield | ClC=1C=CC(=NC1)OC(N(C1=CC=CC=C1)C)=O | C13H11ClN2O2
